US07709496B2
(c) 6-Hydroxymethyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine
A solution of 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid (500 mg, 2.38 mmole) and triethylamine (0.396 mL, 2.84 mmole) in THF (24 mL) was cooled to −10° C. and isobutyl chloroformate (0.339 mL, 2.61 mmole) was added. After 20 min the suspension was filtered through kieselguhr into an ice-cooled solution of sodium borohydride (272 mg, 7.19 mmole) in water (8 mL). The mixture was stirred for 30 min, then the pH was adjusted to 7 with dilute HCl. The solvent was evaporated and the residue was triturated with water. The solid was collected and dried under vacuum to give the title compound (346 mg, 74%) as a white solid: MS (APCI−) m/e 197 (M−H)−.

reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid | 2.38 mmole, 500 mg | O=C1NC2=C(SC1)C=CC(=N2)C(=O)O | C8H6N2O3S
reactant | triethylamine | 2.84 mmole, 0.396 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2.61 mmole, 0.339 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 7.19 mmole, 272 mg | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | water | 8 mL | O | H2O
product | 6-Hydroxymethyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine | 346 mg, 74% | OCC=1C=CC=2SCC(NC2N1)=O | C8H8N2O2S
